US07723378B2
To a part (300 mL) of a freshly prepared solution of sodium (21 g, 875 mmol) in ethanol (500 mL), mercaptoacetic acid ethyl ester (50 mL) is added. The resulting solution is added over a period of 10 min to a solution of 2-chloromethylene-4,4-dimethyl-cyclohexanone (50 g, 290 mmol) in THF (170 mL). The mixture becomes warm (50° C.). Upon complete addition, the remaining part of the freshly prepared solution of sodium in ethanol (200 mL) is added to the reaction mixture. The mixture is stirred at rt for 15 min before 1 N aq. LiOH solution (300 mL) is added. The solution is refluxed for 3 h, then stirred at rt for 16 h. The THF and ethanol are removed under reduced pressure and the remaining dark solution is extracted with heptane/EA 3:1 (2×200 mL). The aq. phase is acidified by adding citric acid (30 g) and 2 N aq. HCl (200 mL) and then extracted three times with EA. The combined organic extracts are washed three times with sat. aq. NaHCO3 solution, dried over Na2SO4 and evaporated. The resulting dark brown oil is dissolved in acetonitrile at 60° C. and crystallised at 5° C. The crystals are collected, washed with acetonitrile and dried to give 5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid (31 g) as a slightly grey powder; LC-MS: tR=0.95 min, [M+1+CH3CN]+=252.18; 1H NMR (CDCl3): δ 7.15 (s, 1H), 3.05 (t, J=7.0 Hz, 2H), 2.47 (s, 2H), 1.58 (t, J=7.0 Hz, 2H), 0.97 (s, 6H).

reactant | sodium | 875 mmol, 21 g | [Na] | Na
reactant | 2-chloromethylene-4,4-dimethyl-cyclohexanone | 290 mmol, 50 g | ClC=C1C(CCC(C1)(C)C)=O | C9H13ClO
reactant | LiOH | 1 N, 300 mL | [Li+].[OH-]
reactant | mercaptoacetic acid ethyl ester | 50 mL | C(C)OC(CS)=O | C4H8O2S
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | THF | 170 mL | C1CCOC1 | C4H8O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 5,5-dimethyl-4,5,6,7-tetrahydro-benzo[c]thiophene-1-carboxylic acid | 31 g | CC1(CC=2C(=C(SC2)C(=O)O)CC1)C | C11H14O2S
